US07732618B2
b.) {5-[(Cyclohexyl)-(4-fluoro-benzenesulfonyl)-amino]-2-propyl-benzoimidazol-1-yl}-acetic acid.
{5-[(Cyclohexyl)-(4-fluoro-benzenesulfonyl)-amino]-2-propyl-benzoimidazol-1-yl}-acetic acid tert-butyl ester was treated with TFA (2 mL) for 2 hours, concentrated, and purified by preparative LCMS to give the title compound. 1H NMR (d6-DMSO) δ7.81 (m, 1H), 7.42 (m, 3H), 7.08 (d, 1H), 6.79 (dd, 1H), 4.98 (s, 2H), 4.11 (m, 1H), 2.72 (t, 2H), 1.79 (m, 4H), 1.65 (m, 2H), 1.31 (m, 3H), 0.99 (m, 5H), 0.79 (m, 1H). MS calculated for C24H28FN3O4S—H: 472, observed: 472.

reactant | {5-[(Cyclohexyl)-(4-fluoro-benzenesulfonyl)-amino]-2-propyl-benzoimidazol-1-yl}-acetic acid tert-butyl ester | C(C)(C)(C)OC(CN1C(=NC2=C1C=CC(=C2)N(S(=O)(=O)C2=CC=C(C=C2)F)C2CCCCC2)CCC)=O | C28H36FN3O4S
reactant | TFA | 2 mL | C(=O)(C(F)(F)F)O | C2HF3O2
product | {5-[(Cyclohexyl)-(4-fluoro-benzenesulfonyl)-amino]-2-propyl-benzoimidazol-1-yl}-acetic acid | C1(CCCCC1)N(C1=CC2=C(N(C(=N2)CCC)CC(=O)O)C=C1)S(=O)(=O)C1=CC=C(C=C1)F | C24H28FN3O4S
